Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
L sided weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old man with history of HLD
and HTN who presents with new symptoms of left side weakness 
upon
awakening. Patient was in his usual state of health and reports
that he had a beer containing caffeine in it at about 10 pm. He
went to sleep at around midnight, and at 3am he awoke with left
sided weakness and facial droop. He noticed this instantly upon
getting out of bed, so he called ___ and was brought to the ED 
as
a code stroke. SBP in ambulance was 150/80 reportedly. 
Patient reports his blood pressure has been well controlled 
since
starting atenolol. He checks it regularly and is normally
120s/80s. He has otherwise not been ill. 
 
Past Medical History:
history of right inguinal hernia repair
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  Mild dysarthria due to facial droop. Normal
prosody. Able to register 3 objects and recall ___ at 5 minutes.
No apraxia. No evidence of hemineglect. No left-right confusion.
Able to follow both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. +Left facial droop. Hearing intact to finger rub
bilaterally.  Palate elevation symmetric. SCM/Trapezius strength
___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5-    5-   5-   5-   5-  5   5    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      3+       2+
 R  2+    2+     2+      3+       2+  

Plantar response mute bilaterally 

- Sensory: No deficits to light touch. No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait: deferred

Discharge examination:
VS: 97.3 ___ 66 16 98%
Exam is as above aside from improvement in left facial droop; it 
is now mild, and ___ strength bilaterally in all muscles and 
symmetric without pronator drift but with +orbiting around left 
arm. Gait is normal based with normal arm swing and steady. 

 
Pertinent Results:
___ 03:46AM BLOOD WBC-10.6* RBC-4.72 Hgb-15.3 Hct-44.6 
MCV-95 MCH-32.4* MCHC-34.3 RDW-12.3 RDWSD-42.6 Plt ___
___ 03:46AM BLOOD ___ PTT-25.4 ___
___ 03:46AM BLOOD ___ 08:25AM BLOOD Glucose-84 UreaN-13 Creat-0.9 Na-140 
K-4.0 Cl-100 HCO3-23 AnGap-21*
___ 08:25AM BLOOD ALT-23 AST-19 LD(LDH)-198 CK(CPK)-116 
AlkPhos-73 TotBili-1.0
___ 08:25AM BLOOD GGT-34
___ 03:46AM BLOOD Lipase-34
___ 08:25AM BLOOD CK-MB-3 cTropnT-<0.01
___ 07:05AM BLOOD Albumin-4.4 Calcium-8.9 Phos-3.3 Mg-2.1
___ 08:25AM BLOOD TotProt-7.3 Albumin-4.6 Globuln-2.7 
Cholest-158
___ 08:25AM BLOOD %HbA1c-5.0 eAG-97
___ 08:25AM BLOOD Triglyc-116 HDL-74 CHOL/HD-2.1 LDLcalc-61
___ 08:25AM BLOOD TSH-1.0
___ 08:25AM BLOOD CRP-0.6
___ 03:46AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___
1. Acute intraparenchymal hemorrhage centered in the right basal 

ganglia/internal capsule measuring up to 1.7 cm.  No significant 
mass effect or midline shift. 
2. Small hypodensities in the left basal ganglia/internal 
capsule likely represent chronic lacunar infarcts. 

___
Right basal ganglia hemorrhage without signs of abnormal 
underlying 
enhancement or enhancement in other parts of the brain.  No 
evidence of a large infarcts seen in the right basal ganglia.  
Chronic left basal ganglia hemorrhage is identified.  Normal MRA 
of the head. 
 
Brief Hospital Course:
Mr. ___ presented to ___ with new left sided weakness and 
facial droop with NCHCT showing hemorrhagic stroke in right 
basal ganglia. He was admitted to the Stroke Service and blood 
pressure was maintained below 150. He was continued on home meds 
including Atorvastatin and Atenolol at half dose of 12.5mg 
daily. He is being discharged home on full dose atenolol 25 mg 
and with atorvastatin on hold given the recent bleed, at least 
until he follows up with Dr. ___ in ___. 

He underwent MRI/MRA Brain which was consistent with BG bleed 
and showed chronic infarct in left basal ganglia, with vessel 
imaging suggestive of b/l cavernomas. He will follow up with 
neurology and neurosurgery for consideration of intervention for 
his suspected bilateral cavernomas. Pt's clinical status was 
seen stable and based on ___ evaluation was recommended to be 
discharged home with outpatient physical therapy. 

AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (X) Yes - () No
2. DVT Prophylaxis administered? (X) Yes - () No
3. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? (X) Yes - () No
 
Medications on Admission:
atenolol 25 mg daily
atorvastatin 80 mg daily
 
Discharge Medications:
1.  Atenolol 25 mg PO DAILY  
2. HELD- Atorvastatin 80 mg PO QPM  This medication was held. Do 
not restart Atorvastatin until your follow up appointment with 
Dr. ___
3.Outpatient Physical Therapy
Evaluate and treat
432.9 hemorrhagic stroke

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right basal ganglia hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of left facial and body 
weakness resulting from an ACUTE HEMORRHAGIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is broken and bleeds within the brain. The brain is the part of 
your body that controls and directs all the other parts of your 
body, so damage to the brain from being deprived of its blood 
supply can result in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
high blood pressure

We are changing your medications as follows:
atenolol 12.5 mg daily
Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___